US06562811B1
To a cooled (0° C.) solution of tert-butyl 3-(2-amino-6-[2-(cyclopropylmethoxy)-6-hydroxyphenyl]-3-{[(methylsulfonyl)amino]methyl}-4-pyridinyl)-1-piperidinecarboxylate (0.050 g, 0.091 mmol) and triethylamine (0.077 mL, 0.549 mmol) in tetrahydrofuran (15 mL) was added to a solution of triphosgene (0.027 g, 0.091 mmol) in tetrahydrofuran(5 mL) under an argon atmosphere. The mixture was allowed to warm to room temperature, and the stirring was continued for 3 hrs under an argon atmosphere. After quenched by water, the mixture was extracted with ethy acetate. The separated organic phase was washed with brine, dried over MgSO4, filtered, and concentrated under reduced pressure. The resulting yellow solid was triturated with diisopropyl ether and collected by filtration to give tert-butyl 3-[7-[2-(cyclopropylmethoxy)-6-hydroxyphenyl]-3-(methylsulfonyl)-2-oxo-1,2,3,4-tetrahydropyrido[2,3-d]pyrimidin-5-yl]-1-piperidinecarboxylate as a yellow solid (0.028 g, yield; 55%).

reactant | tert-butyl 3-(2-amino-6-[2-(cyclopropylmethoxy)-6-hydroxyphenyl]-3-{[(methylsulfonyl)amino]methyl}-4-pyridinyl)-1-piperidinecarboxylate | 0.091 mmol, 0.050 g | NC1=NC(=CC(=C1CNS(=O)(=O)C)C1CN(CCC1)C(=O)OC(C)(C)C)C1=C(C=CC=C1O)OCC1CC1 | C27H38N4O6S
reactant | triethylamine | 0.549 mmol, 0.077 mL | C(C)N(CC)CC | C6H15N
reactant | triphosgene | 0.091 mmol, 0.027 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | tert-butyl 3-[7-[2-(cyclopropylmethoxy)-6-hydroxyphenyl]-3-(methylsulfonyl)-2-oxo-1,2,3,4-tetrahydropyrido[2,3-d]pyrimidin-5-yl]-1-piperidinecarboxylate | 0.028 g, yield; 55% | C1(CC1)COC1=C(C(=CC=C1)O)C=1C=C(C2=C(NC(N(C2)S(=O)(=O)C)=O)N1)C1CN(CCC1)C(=O)OC(C)(C)C | C28H36N4O7S
